US07511057B2
2,2-Dimethyl-3-methylsulfanyl-propionic acid methyl ester
N,N-Diisopropylethylamine (15.5 g, 0.12 mol) was added to a solution of methyl 2,2-dimethyl-3-hydroxypropionate (13.2 g, 0.1 mol) in dichloromethane (150 mL) and the solution was cooled to 0° C. Methane sulfonyl chloride (12.6 g, 0.11 mol) was then added dropwise and the mixture was stirred at 0° C. for 90 minutes. The reaction mixture was then diluted with 0.5M hydrochloric acid (100 mL) and the layers were separated. The aqueous was extracted with dichloromethane (2×50 mL) and the combined organic solution was dried over magnesium sulfate and concentrated in vacuo. Methanethiol sodium salt (7.7 g, 0.11 mol) was added to a solution of the residue in dioxan (100 mL) and the mixture was heated under reflux for 24 hours. The mixture was then diluted with ethyl acetate (250 mL), washed with water and brine, dried over magnesium sulfate and concentrated in vacuo. Purification by column chromatography on silica gel, eluting with dichloromethane:pentane 50:50 to 100:0, afforded the title compound as a pale yellow oil in 24% yield, 3.85 g.

reactant | N,N-Diisopropylethylamine | 0.12 mol, 15.5 g | C(C)(C)N(C(C)C)CC | C8H19N
reactant | methyl 2,2-dimethyl-3-hydroxypropionate | 0.1 mol, 13.2 g | CC(C(=O)OC)(CO)C | C6H12O3
reactant | Methane sulfonyl chloride | 0.11 mol, 12.6 g | CS(=O)(=O)Cl | CH3ClO2S
reactant | Methanethiol sodium salt | 0.11 mol, 7.7 g | [Na].CS
solvent | dichloromethane | 150 mL | ClCCl | CH2Cl2
solvent | hydrochloric acid | 0.5M, 100 mL | Cl | ClH
solvent | dioxan | 100 mL | O1CCOCC1 | C4H8O2
solvent | ethyl acetate | 250 mL | C(C)(=O)OCC | C4H8O2
product | 2,2-Dimethyl-3-methylsulfanyl-propionic acid methyl ester | 24% yield | COC(C(CSC)(C)C)=O | C7H14O2S
